US07598423B2
Synthesis of 1-[2-hydroxy-4-(4-{hydroxy-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-propyl-phenyl]-ethanone
Bring to a heavy reflux, a mixture of 3-[[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (3.0 g, 6 mmol), zinc (II) bromide (4.1 g, 18 mmol), sodium azide (2.34 g, 36 mmol), water (20 mL) and isopropyl alcohol (20 mL) for 18 hours. Cool and dilute the reaction mixture with water (100 mL) and adjust the pH to 2 with 1M hydrochloric acid. Extract the product with ethyl acetate (2×150 mL), combine the extracts and wash with water (100 mL), brine (100 mL), dry over magnesium sulfate, filter, and concentrate. Stir the residue in methanol (50 mL), and add p-toluenesulfonic acid mono hydrate (4 g, 21 mmol) and stir at room temperature for an hour. Concentrate the mixture and dilute with water (100 mL). Extract the product with ethyl acetate (2×100 mL). Wash the combined extracts with water (2×100 mL), brine (100 mL), dry over magnesium sulfate, filter, and concentrate. Purify the resulting residue via silica chromatography eluting with 1:1 hexanes:ethyl acetate to 1:1 ethyl acetate:acetone to acetone to give the title compound (2.6 g, 95%) as a tan solid. 1H NMR (DMSO-d6) d 12.86 (s, 1H), 8.12 (s, 1H), 7.87 (d, 1H), 7.80 (d, 1H), 7.39-7.55 (m, 6H), 6.72 (d, 1H), 6.11 (d, 1H), 5.82 (d, 1H), 5.23 (s, 2H), 2.56 (s, 3H), 2.57-2.60 (m, 2H), 1.44-1.52 (m, 2H), 0.87 (t, 3H). LCMS (m/z) 457 M−1.

reactant | 3-[[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 6 mmol, 3.0 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)CCC)O | C31H33NO5
reactant | sodium azide | 36 mmol, 2.34 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | p-toluenesulfonic acid mono hydrate | 21 mmol, 4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | 100 mL | O | H2O
catalyst | zinc (II) bromide | 18 mmol, 4.1 g | [Br-].[Zn+2].[Br-]
solvent | water | 20 mL | O | H2O
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
product | 1-[2-hydroxy-4-(4-{hydroxy-[3-(2H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-3-propyl-phenyl]-ethanone | 2.6 g, 95% | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)C(C1=CC(=CC=C1)C=1N=NNN1)O)C(C)=O | C26H26N4O4
